US06313312B1
N-(3-{6-Methyl-3-[3-(2-thienyl)propyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of N-(3-{6-methyl-3-[3-(2-thienyl)propanoyl]-3-azabicyclo[3.1.0]hex-6-yl]phenyl)methanesulfonamide (Preparation 125, 200 mg, 0.49 mmol) in anhydrous tetrahydrofluran (7.5 ml) under a nitrogen atmosphere at 0° C. was added dropwise lithium alumirnium hydride (1.0M solution in tetrahydrofuran, 0.99 ml, 0.99 mmol) and the mixture was stirred at room temperature for 2 h. The rapidly stirred reaction mixture was treated sequentially with water (1.0 ml), sodium hydrogen carbonate (1.0 g) and ethyl acetate (25 ml). After 15 min the reaction mixture was filtered and concentrated in vacuo to afford a light yellow oil. This was purified by chromatography using a Biotage Flash 12™ cartridge packed with silica gel (8 g) eluting with hexane:ethyl acetate (100:0 to 0:100) to afford the title compound as a colourless oil (135 mg, 70%).

reactant | N-(3-{6-methyl-3-[3-(2-thienyl)propanoyl]-3-azabicyclo[3.1.0]hex-6-yl]phenyl)methanesulfonamide | 0.49 mmol, 200 mg | CC1(C2CN(CC12)C(CCC=1SC=CC1)=O)C=1C=C(C=CC1)NS(=O)(=O)C | C20H24N2O3S2
reactant | lithium | [Li] | Li
reactant | hydride | 0.99 mmol, 1.0M, 0.99 ml | [H-]
reactant | sodium hydrogen carbonate | 1.0 g | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1.0 ml | O | H2O
product | N-(3-{6-Methyl-3-[3-(2-thienyl)propyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 135 mg, 70% | CC1(C2CN(CC12)CCCC=1SC=CC1)C=1C=C(C=CC1)NS(=O)(=O)C | C20H26N2O2S2
